US07220775B2
A mixture of 4-chloro-6-(1-piperidinyl)-2-{4-[3-(trifluoromethyl)-2-pyridinyl]-1-piperazinyl}pyrimidine (75.0 mg, 0.176 mmol), p-toluidine (23.1 mg, 0.216 mmol), 1,1′-(bisdiphenylphosphino)-1,1′-binaphthol (8.4 mg), tris(dibenzylidene acetone)dipalladium(0) (8.2 mg), and sodium tert-butoxide (86.4 mg) in dry toluene (1 mL) was heated at 90° C. in a sealed tube for 90 minutes. The solvent was removed and the crude material was purified by preparative TLC, eluting with hexane/ethyl acetate (4:1). N-(4-Methylphenyl)-6-(1-piperidinyl)-2-{4-[3-(trifluoromethyl)-2-pyridinyl]-1-piperazinyl}-4-pyrimidinamine was obtained, from the band at Rf=0.4, as a solid (59.5 mg, 0.119 mmol, 68%).

reactant | 4-chloro-6-(1-piperidinyl)-2-{4-[3-(trifluoromethyl)-2-pyridinyl]-1-piperazinyl}pyrimidine | 0.176 mmol, 75.0 mg | ClC1=NC(=NC(=C1)N1CCCCC1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C19H22ClF3N6
reactant | p-toluidine | 0.216 mmol, 23.1 mg | NC1=CC=C(C=C1)C | C7H9N
reactant | sodium tert-butoxide | 86.4 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylidene acetone)dipalladium(0) | 8.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(4-Methylphenyl)-6-(1-piperidinyl)-2-{4-[3-(trifluoromethyl)-2-pyridinyl]-1-piperazinyl}-4-pyrimidinamine | CC1=CC=C(C=C1)NC1=NC(=NC(=C1)N1CCCCC1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C26H30F3N7
